US07420001B2
To 4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester (310 mg, 1.18 mmol) dissolved in 9 mL of chlorobenzene was added acetyl chloride (0.3 mL, 3.6 eq). The solution was cooled to <0° C. while titanium tetrachloride (0.61 mL, 4.8 eq) was added dropwise. The reaction mixture was stirred at 0° C. and below for 6 h and then heated in an 85° C. oil bath for 3.5 h. The reaction mixture was poured into ice/water, and the mixture was extracted with ethyl acetate. The combined organic solution was washed with 2N HCl and water. Removal of the solvents in vacuo gave 167 mg (57% yield) of 5-acetyl-4-methoxy-3-methyl-benzofuran-2-carboxylic acid.

reactant | 4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 1.18 mmol, 310 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OC | C15H18O4
reactant | acetyl chloride | 0.3 mL, 3.6 eq | C(C)(=O)Cl | C2H3ClO
solvent | chlorobenzene | 9 mL | ClC1=CC=CC=C1 | C6H5Cl
catalyst | titanium tetrachloride | 0.61 mL, 4.8 eq | [Ti](Cl)(Cl)(Cl)Cl
product | 5-acetyl-4-methoxy-3-methyl-benzofuran-2-carboxylic acid | 167 mg, 57% yield | C(C)(=O)C=1C=CC2=C(C(=C(O2)C(=O)O)C)C1OC | C13H12O5
